US04877799
(-)-trans-4-(-4-fluorophenyl)-3-(3,4-methylenedioxyphenoxymethyl)-1-pentylpiperidine hydrochloride
10 g of (-)-trans-4-(-4-fluorophenyl)-3-(3,4-methylenedioxyphenoxymethyl)-piperidine hydrochloride in 250 ml 99.9% ethanol was mixed with 50 ml 1-bromopentane and 20 g potassium carbonate. The mixture was refluxed for 3 hours and was subsequently cooled to room temperature. 25 ml acetone and 25 ml diethylether was added to the solution. The precipitate was filtered off and the filtrate was evaporated in vacuo. 20 ml 4N NaOH was added to the residue, and the resulting mixture was extracted 3 times with diethyl ether. The combined ether phases were dried over potassium carbonate, filtered, the filtrate was acidified with conc. hydrochloric acid to pH 2, and the filtrate was evaporated in vacuo. The resulting oil was dissolved in acetone and crystals precipitated by addition of ether and after cooling at 4° C. over night. The title compound was filtered off and dried giving 10.1 g of the title compound. M.p. 153.6° C.

reactant | (-)-trans-4-(-4-fluorophenyl)-3-(3,4-methylenedioxyphenoxymethyl)-piperidine hydrochloride | 10 g | Cl.FC1=CC=C(C=C1)[C@H]1[C@@H](CNCC1)COC1=CC2=C(C=C1)OCO2
reactant | 1-bromopentane | 50 ml | BrCCCCC | C5H11Br
reactant | potassium carbonate | 20 g | C([O-])([O-])=O.[K+].[K+]
reactant | acetone | 25 ml | CC(=O)C | C3H6O
solvent | ethanol | 250 ml | C(C)O | C2H6O
solvent | diethylether | 25 ml | C(C)OCC | C4H10O
product | (-)-trans-4-(-4-fluorophenyl)-3-(3,4-methylenedioxyphenoxymethyl)-1-pentylpiperidine hydrochloride | 10.1 g | Cl.FC1=CC=C(C=C1)[C@H]1[C@@H](CN(CC1)CCCCC)COC1=CC2=C(C=C1)OCO2 | InChI=1S/C24H30FNO3.ClH/c1-2-3-4-12-26-13-11-22(18-5-7-20(25)8-6-18)19(15-26)16-27-21-9-10-23-24(14-21)29-17-28-23;/h5-10,14,19,22H,2-4,11-13,15-17H2,1H3;1H/t19-,22-;/m0./s1
